US09314468B2
Preparation of tert-butyl (5)-5-amino-1-((S)-1-(naphthalen-1-yl)ethylamino)-1-oxopentan-2-ylcarbamate (24).
A solution of (S)-4-(tert-butoxycarbonyl)-amino-5-((S)-1-(naphthalen-1-yl)ethylamino)-5-oxopentylcarbamate, 23, (28.0 g, 54.0 mmol) in ethanol (600 mL) was added ammonium formate (10.2 g, 160.0 mmol) and palladium (10 wt % on carbon, 1.0 g). The reaction mixture was warmed to 55° C. and stirred for 18 h at 55° C. The mixture was filtered through Celite and washed with ethanol. The resulting filtrate was concentrated in vacuo. The residue was dissolved in ethyl acetate and the organic phase was washed with aqueous saturated NaCl solution. The organic phase was dried (MgSO4), filtered and concentrated in vacuo. The crude residue was used without further purification: 1H NMR (d6-DMSO) δ 8.55 (d, J=7.6 Hz, 1H), 8.04 (d, J=8.4 Hz, 1H), 7.89 (d, J=8.0 Hz, 1H), 7.78 (d, J=8.0 Hz, 1H), 7.53-7.42 (m, 4H), 6.81 (d, J=8.0 Hz, 1H), 5.65-5.62 (m, 1H), 3.96-3.89 (m, 1H), 2.60-2.53 (m, 2H), 1.46-1.40 (m, 7H), 1.33 (s, 9H); ESI+ MS: m/z (rel intensity) 386.2 (100, [M+H]+).

reactant | (S)-4-(tert-butoxycarbonyl)-amino-5-((S)-1-(naphthalen-1-yl)ethylamino)-5-oxopentylcarbamate | C(C)(C)(C)OC(=O)[C@@H](CCCN(C([O-])=O)N)C(=O)N[C@@H](C)C1=CC=CC2=CC=CC=C12
reactant | ammonium formate | 160.0 mmol, 10.2 g | C(=O)[O-].[NH4+]
solvent | ethanol | 600 mL | C(C)O | C2H6O
catalyst | palladium | 1.0 g | [Pd] | Pd
product | tert-butyl (5)-5-amino-1-((S)-1-(naphthalen-1-yl)ethylamino)-1-oxopentan-2-ylcarbamate | NCCC[C@@H](C(=O)N[C@@H](C)C1=CC=CC2=CC=CC=C12)NC(OC(C)(C)C)=O | C22H31N3O3
